** sch_path: /mnt/c/Users/si150/eda/designs/heichips26-template/macros/chipalooza_analog_project/macros/inverter/schematic/xschem/inverter.sch
.subckt inverter VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
MMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2
MMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2
MM1 vout vin VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20
MM2 vout vin VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20
.ends
